US07846956B2
5.0 g of 2-chloro-N-hydroxyacetoamidine and 6.11 g of trimethylacetyl chloride were dissolved in 100 ml of N,N-dimethylformamide, and 5.6 g of triethylamine was then added dropwise under ice-cooling. After completion of the addition, the reaction mixture was stirred at 130° C. for 6 hours and then cooled to room temperature. After aqueous saturated sodium chloride, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 7.0 g of 3-(chloromethyl)-5-t-butyl-1,2,4-oxadiazole.

reactant | 2-chloro-N-hydroxyacetoamidine | 5.0 g | ClCC(=N)NO | C2H5ClN2O
reactant | trimethylacetyl chloride | 6.11 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(chloromethyl)-5-t-butyl-1,2,4-oxadiazole | 7.0 g | ClCC1=NOC(=N1)C(C)(C)C | C7H11ClN2O
